US06734191B2
AMD9713: Preparation of (1H-Benzimidazol-2-ylmethyl)-(4-piperidin-1-ylmethyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (hydrobromide salt)
Using General Procedure A: To a stirred solution of 4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzaldehyde (AMD9882) (144 mg, 0.36 mmol) in dry MeOH (5 mL) was added piperidine (0.040 mL, 0.40 mmol) and sodium cyanoborohydride (44 mg, 0.70 mmol) and the mixture stirred for 5 h. Purification of the crude product by radial chromatography on silica gel (1 mm plate, CH2Cl2/MeOH/NH4OH, 50:1:1) afforded the desired adduct (50 mg, 30%) as a white foam.

reactant | 4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzaldehyde | 0.36 mmol, 144 mg | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(C=O)C=C2 | C25H24N4O
reactant | piperidine | 0.40 mmol, 0.040 mL | N1CCCCC1 | C5H11N
reactant | sodium cyanoborohydride | 0.70 mmol, 44 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | (1H-Benzimidazol-2-ylmethyl)-(4-piperidin-1-ylmethyl-benzyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 50 mg, 30% | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(C=C2)CN2CCCCC2 | C30H35N5
